US06274536B1
15.8 g of 3,5-dichloro-2-acetylpyridine are introduced together with 12.0 ml of trifluoroethyl acetate into 125 ml of absolute ether. With stirring, the mixture is cooled using an ice-bath and 46.6 ml of, a 21% sodium ethanolate solution in ethanol are added dropwise. The ice-bath is then removed and the mixture is subsequently stirred overnight at 25° C. After cooling the reaction mixture in an ice-bath and adding dropwise 7.5 ml of glacial acetic acid, the mixture is concentrated in vacuo. 39.0 g of 1-(3,5-dichloro-2-pyridyl)-3-trifluoromethylpropane-1,3-dione are obtained, which can be used directly for the following cyclisation step.

reactant | 3,5-dichloro-2-acetylpyridine | 15.8 g | ClC=1C(=NC=C(C1)Cl)C(C)=O | C7H5Cl2NO
reactant | trifluoroethyl acetate | 12.0 ml | C(C)(=O)OCC(F)(F)F | C4H5F3O2
reactant | ether | 125 ml | CCOCC | C4H10O
reactant | sodium ethanolate | C(C)[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 1-(3,5-dichloro-2-pyridyl)-3-trifluoromethylpropane-1,3-dione | 39.0 g | ClC=1C(=NC=C(C1)Cl)C(CC(=O)C(F)(F)F)=O | C9H4Cl2F3NO2
